US06642389B2
f] [rac]-2-Ethoxy-3-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzofuran-7-yl]-propionic acid
Potassium carbonate (37 mg, 300 μmol, 1.4 eq.) and potassium iodide (4 mg, 30 μmol, 0.1 eq.) were added to a solution of [rac]-2-ethoxy-3-(4-hydroxy-benzofuran-7-yl)-propionic acid methyl ester (50 mg, 189 μmol) and 4-chloromethyl-5-methyl-2-phenyl-oxazole (39 mg, 189 μmol, 1 eq.) in N,N-dimethylformamide (0.5 ml). The mixture was shaken at 80° C. for 12 h, filtered off and the filtrate evaporated in vacuo to give [rac]-2-ethoxy-3-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzofuran-7-yl]-propionic acid methyl ester. Crude [rac]-2-ethoxy-3-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzofuran-7-yl]-propionic acid methyl ester was dissolved in a 2:1:1 mixture of THF/ethanol/water. Lithium hydroxide (40 mg, 945 μmol, 5 eq.) was added and the solution was shaken at ambient temperature for 12 h. Acidification with 25% aqueous hydrochloric acid and evaporation of the solvent in vacuo were followed by purification through a preparative HPLC column to give the title compound (28 mg, 66 μmol, 35%) as white solid.

reactant | [rac]-2-ethoxy-3-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzofuran-7-yl]-propionic acid methyl ester | COC(C(CC1=CC=C(C=2C=COC21)OCC=2N=C(OC2C)C2=CC=CC=C2)OCC)=O | C25H25NO6
reactant | Lithium hydroxide | 945 μmol, 40 mg, 5 eq. | [OH-].[Li+]
solvent | THF ethanol water | C1CCOC1.C(C)O.O
product | [rac]-2-Ethoxy-3-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzofuran-7-yl]-propionic acid | 66 μmol, 28 mg, 35% | C(C)OC(C(=O)O)CC1=CC=C(C=2C=COC21)OCC=2N=C(OC2C)C2=CC=CC=C2 | C24H23NO6
